US08445509B2
Production of N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-1-(2,6-dimethylphenyl)-2-oxo-1,2-dihydropyridine-3-carboxamide
1-(2,6-Dimethylphenyl)-2-oxo-1,2-dihydropyridine-3-carboxylic acid (120 mg, 0.51 mmol), N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (150 mg, 0.46 mmol) and HATU (340 mg, 0.91 mmol) were suspended in N,N-dimethylformamide (3.0 mL), and N,N-diisopropylethylamine (0.16 mL, 0.92 mmol) was added. After stirring at room temperature overnight, the mixture was diluted with ethyl acetate (5.0 mL) and tetrahydrofuran (5.0 mL). The mixture was washed twice with saturated aqueous sodium hydrogen carbonate solution, and the organic layer was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=65/35→85/15). The fractions containing the object product were mixed. The solvent was evaporated under reduced pressure, and a small amount of hexane/ethyl acetate was added. The resulting precipitate was collected by filtration to give the title compound (130 mg, 49%) as a white solid.

reactant | 1-(2,6-Dimethylphenyl)-2-oxo-1,2-dihydropyridine-3-carboxylic acid | 0.51 mmol, 120 mg | CC1=C(C(=CC=C1)C)N1C(C(=CC=C1)C(=O)O)=O | C14H13NO3
reactant | N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 0.46 mmol, 150 mg | NC1=CC(=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=C1)F | C17H15FN4O2
reactant | HATU | 0.91 mmol, 340 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.92 mmol, 0.16 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 3.0 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 5.0 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
product | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-1-(2,6-dimethylphenyl)-2-oxo-1,2-dihydropyridine-3-carboxamide | 130 mg, 49% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=C(C=C(C=C2)NC(=O)C=2C(N(C=CC2)C2=C(C=CC=C2C)C)=O)F)C1 | C31H26FN5O4
